US03935312
60 G (1.15 moles of cyanogen, which had beforehand been freed of adhering hydrocyanic acid by washing with a silver nitrate solution containing nitric acid and had been condensed in a cold trap, were passed at room temperature into a solution of 71.3 g (0.5 mole) of 1-chloro-3,4-diaminobenzene and 2 ml of 10% strength sodium hydroxide solution in 200 ml of anhydrous methanol. The reaction mixture was left to stand for 2 days at room temperature. Thereafter the resulting precipitate was filtered off, rinsed with a little methanol and dried. 41.6 G (representing 43% of theory) of 6-chloro-2,3-diamino-quinoxaline of melting point 290°C were obtained.

reactant | cyanogen | 1.15 moles | N#CC#N | C2N2
reactant | hydrocyanic acid | C#N | CHN
reactant | 1-chloro-3,4-diaminobenzene | 0.5 mole, 71.3 g | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 6-chloro-2,3-diamino-quinoxaline | 43% | ClC=1C=C2N=C(C(=NC2=CC1)N)N | C8H7ClN4
